US08497360B2
Under a nitrogen atmosphere, (1S)-camphanic acid chloride (3.37 g, 15.6 mmol) was added to a solution of (RS)-1-(2-nitrophenyl)-2,2-dimethyl-1-propanol (2.71 g, 13 mmol) and DMAP (80 mg, 0.65 mmol) in anhydrous pyridine (50 mL). The mixture was stirred for 24 hours at room temperature. Solvent was removed in vacuo, and the residue was dissolved in ethyl acetate (50 mL), washed with 0.5 M HCl (20 mL) twice followed with saturated NaHCO3 solution (20 mL). The organic phase was dried over Na2SO4, concentrated in vacuo and purified by silica gel column chromatography to yield (RS)-1-(2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate (4.11 g, 81%, 1:1 mixture of diastereomers) as a yellow solid. 1H NMR (400 MHz, CDCl3) for diastereomers: δ 7.91 (m, 1 H, Ph-H), 7.62 (m, 2 H, Ph-H), 7.46 (m, 1 H, Ph-H), 6.66 and 6.62 (2 s, 1 H, Ph-CH), 2.38 (m, 1H), 2.10-1.9 (m, 2H), 1.71 (m, 1H), 1.13, 1.11, 1.08, 1.04, 1.03, 0.87 (6s, 9 H, CH3×3), 0.97 (s, 9 H, (CH3)3C).

reactant | (1S)-camphanic acid chloride | 15.6 mmol, 3.37 g | [C@]12(C(CC(CC1)C2(C)C)C(=O)Cl)C | C11H17ClO
reactant | (RS)-1-(2-nitrophenyl)-2,2-dimethyl-1-propanol | 13 mmol, 2.71 g | [N+](=O)([O-])C1=C(C=CC=C1)C(C(C)(C)C)O | C11H15NO3
catalyst | DMAP | 0.65 mmol, 80 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (RS)-1-(2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate | 4.11 g, 81% | [C@]12(C(CC(CC1)C2(C)C)C(=O)OC(C(C)(C)C)C2=C(C=CC=C2)[N+](=O)[O-])C | C22H31NO4
